US05882628
c. 1-(1,2-Dihydroxyethyl)-3,5-dinitrobenzene
3,5-Dinitrostyrene (0.50 g, 2.58 mmol) was dissolved in a mixture of acetone and water (8:1, 70 ml) and the solution was cooled to 0° C. OsO4 (0.046 g, 0.18 mmol) and NMO (0.60 g, 5.15 mmol) were added and the solution was stirred at room temperature for 16 h. A solution of Na2S2O5 (1.5 g) in water (120 ml) was added and the organic solvent removed by evaporation. The aqueous phase was extracted with ethyl acetate (2×70 ml) and the combined organic phases were dried (Na2SO4) and evaporated. The product was purified by preparative HPLC. Yield: 0.44 g (75%).

reactant | 3,5-Dinitrostyrene | 2.58 mmol, 0.50 g | [N+](=O)([O-])C=1C=C(C=C)C=C(C1)[N+](=O)[O-] | C8H6N2O4
reactant | NMO | 5.15 mmol, 0.60 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 70 ml | O | H2O
solvent | water | 120 ml | O | H2O
catalyst | OsO4 | 0.18 mmol, 0.046 g | O=[Os](=O)(=O)=O
product | 1-(1,2-Dihydroxyethyl)-3,5-dinitrobenzene | OC(CO)C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C8H8N2O6
